US05817693
e) Methyl 5-Benzyloxy-1-(3,4-methylenedioxyphenyl)-3-oxoindene-2-carboxylate
To a solution of methyl 5-benzyloxy-1-(3,4-methylenedioxyphenyl)-3-oxoindane-2-carboxylate (27.3 g, 65.6 mmol) in benzene (90 ml), cooled in an ice-H2O bath, was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (15.4 g, 67.8 mmol). The resulting mixture was stirred at 0° C. for 1 h, allowed to warm to room temperature for 1.5 h, and finally warmed to 40° C. for 1 h. The solid which formed was removed by filtration and washed with benzene. The combined filtrate and washings were poured into EtOAc (200 ml) and washed successively with aqueous Na2CO3 (3×), H2O (3×), 3M HCl, H2O (3×) and saturated aqueous NaCl and dried. The solvent was removed in vacuo, and the residue was crystallized from EtOAc/hexanes to afford the title compound (16.4 g, 60%) as a red crystalline solid; m.p. 140°-141° C.

reactant | methyl 5-benzyloxy-1-(3,4-methylenedioxyphenyl)-3-oxoindane-2-carboxylate | 65.6 mmol, 27.3 g | C(C1=CC=CC=C1)OC=1C=C2C(C(C(C2=CC1)C1=CC2=C(C=C1)OCO2)C(=O)OC)=O | C25H20O6
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 67.8 mmol, 15.4 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | Methyl 5-Benzyloxy-1-(3,4-methylenedioxyphenyl)-3-oxoindene-2-carboxylate | 16.4 g, 60% | C(C1=CC=CC=C1)OC=1C=C2C(C(=C(C2=CC1)C1=CC2=C(C=C1)OCO2)C(=O)OC)=O | C25H18O6
